US07157487B2
Under stirring, a solution of ethyl 3-(4-methoxybenzylthio)-4-nitrophenylacetate (3.33 g, 9.92 mmol), ammonium chloride (542 mg, 10.1 mmol) and reduced iron powder (2.57 g, 46.1 mmol) in ethanol/THF/water (2:2:1, 75 ml) was heated and refluxed for 1.5 hours. After the reaction mixture was cooled, the insoluble matter was filtered off. The filtrate was distilled under reduced pressure to remove the solvent. The residue was neutralized by pouring therein a saturated aqueous solution of sodium bicarbonate, followed by extraction with a chloroform-methanol mixture. The extract was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform-ethyl acetate (20:1) eluate fractions, ethyl 3-(4-methoxybenzylthio)-4-aminophenylacetate (2.64 g, 86%) was obtained as a yellow oil.

reactant | ethyl 3-(4-methoxybenzylthio)-4-nitrophenylacetate | 9.92 mmol, 3.33 g | COC1=CC=C(CSC=2C=C(C=CC2[N+](=O)[O-])CC(=O)OCC)C=C1 | C18H19NO5S
reactant | ammonium chloride | 10.1 mmol, 542 mg | [Cl-].[NH4+]
solvent | ethanol THF water | 75 ml | C(C)O.C1CCOC1.O
product | ethyl 3-(4-methoxybenzylthio)-4-aminophenylacetate | 2.64 g, 86% | COC1=CC=C(CSC=2C=C(C=CC2N)CC(=O)OCC)C=C1 | C18H21NO3S
